US05700809
7-Phenylisoquinoline
To a slurry of 7-(trifluoromethanesulfonyloxy)isoquinoline (prepared by the method of D. F. Ortwine et al., J. Med. Chem., 1992, 35, 1345) (2.1 g, 7.5 mmol) in toluene (20 ml) was added phenyl boronic acid (1.21 g, 10 mmol) and a 2M solution of sodium carbonate (15 ml). The reaction vessel was filled with nitrogen, tetrakis(triphenylphosphine)palladium(0) (0.25 g, 0.22 mmol) was added and the reaction mixture was heated at 90° C. for 18 h. The reaction mixture was diluted with ethyl acetate (50 ml) and washed with sodium carbonate solution (50 ml). The aqueous solution was extracted with ethyl acetate (2×50 ml). The ethyl acetate extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an oil. The oil was purified by flash chromatography using hexane/ethyl acetate (1:1) as eluant to give the title compound (1.27 g, 83%); δH (DMSO-d6) 7.41-7.88 (6H, m, ArH and isoquinolinyl H), 7.95 (1H, d, J 6.2 Hz, isoquinolinyl H), 8.14 (1H, dd, J 8.5, 1.75 Hz, isoquinolinyl H), 8.44 (1H, t, J 0.85 Hz, isoquinolinyl H), 8.52 (1H, d, 5.75 Hz, 3-H), and 9.31 (1H, s, 1-H); m/z (CI+, NH3) 206 (M+1)+.

reactant | 7-(trifluoromethanesulfonyloxy)isoquinoline | FC(S(=O)(=O)OC1=CC=C2C=CN=CC2=C1)(F)F | C10H6F3NO3S
reactant | phenyl boronic acid | 10 mmol, 1.21 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.22 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Phenylisoquinoline | 1.27 g, 83% | C1(=CC=CC=C1)C1=CC=C2C=CN=CC2=C1 | C15H11N
